US04673746
To a mixture of 2.24 g of NaH in 100 ml DMF, 21.75 g of 2,3-dichloro-4-methoxy-4'-chloro-2'-fluorobenzophenone oxime in 100 ml of DMF is added dropwise. After addition the mixture is stirred one hour and the reaction mixture poured into ice water. A product which precipitates is filtered and dried giving a mixture of isomers which is chromatographed on silica gel with 50% hexane and 50% toluene as eluant to yield 7-chloro-3-(4-chloro-2-fluorophenyl)-6-methoxy-1,2-benzisoxazole, mp 193°-194° C.

reactant | NaH | 2.24 g | [H-].[Na+]
reactant | 2,3-dichloro-4-methoxy-4'-chloro-2'-fluorobenzophenone oxime | 21.75 g | ClC1=C(C(C2=C(C=C(C=C2)Cl)F)=NO)C=CC(=C1Cl)OC | C14H9Cl3FNO2
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | 7-chloro-3-(4-chloro-2-fluorophenyl)-6-methoxy-1,2-benzisoxazole | ClC1=C(C=CC=2C(=NOC21)C2=C(C=C(C=C2)Cl)F)OC | C14H8Cl2FNO2
